US07825256B2
[1-(2-Benzo[1,3]dioxol-5-yl-ethylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (350 mg, 1.04 mmol) was dissolved in TFA:DCM (1:1, 4 mL) and allowed to stir at room temperature for 2 h. After this time, the solution was concentrated down under N2 gas and dissolved in DCM. The solution was washed several times with 1M NaOH (aq). The organic layer was dried with Na2SO4 and concentrated down under N2. The crude material was purified by flash chromatography (DCM to 9:1 DCM/MeOH) to afford 189 mg (77% yield) of (S)-2-amino-N-(2-benzo[1,3]dioxol-5-yl-ethyl)-propionamide. [M+H]+ 237.10.

reactant | [1-(2-Benzo[1,3]dioxol-5-yl-ethylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 1.04 mmol, 350 mg | C(C)(C)(C)OC(NC(C)C(NCCC1=CC2=C(OCO2)C=C1)=O)=O | C17H24N2O5
solvent | TFA DCM | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-2-amino-N-(2-benzo[1,3]dioxol-5-yl-ethyl)-propionamide | 189 mg, 77% yield | N[C@H](C(=O)NCCC1=CC2=C(OCO2)C=C1)C | C12H16N2O3
